Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hemoptysis 
 
Major Surgical or Invasive Procedure:
bronchoscopy with biopsy 

 
History of Present Illness:
___ year old male with hx DM, HTN, COPD and current heavy tobacco 
use who presents with hemoptysis. His son and wife reported 
seeing blood mixed in with mucus on a tissue in the trash can 
yesterday. ___ reports he has been occasionally spitting up 
blood, total of less than a teaspoon. He cannot describe the 
duration of the hemoptysis. Wife reports that he has been having 
DOE with walking short distances and has a productive cough. 
Symptoms associated with ___ pound weight loss over the past 
few months. However, over the past few weeks he endorses weight 
gain and lower extremity swelling.  
.
Of note, he was admitted recently on ___, and treated for a 
likely post-obstructive PNA with levaquin. At that time, his 
wife had noted a dry cough for the past several months with a 
constant level of sputum production that had not worsened in the 
last several days or weeks. Chest CT revealed an LLL infiltrate 
and multiple pulmonary nodules. The ___ was made DNR/DNI 
during that admission, and the decision was made per the wife to 
not undergo aggressive workup of the nodules at that time. 
Follow up x-ray was recommended within one month of the CT, with 
a repeat CT in 3 months.  
.
In the ED, initial Vitals were 96.0 62 141/61 20 100% on RA. 
Exam revealed bilateral rhonchi. EKG: NSR, borderline LAD, TWI 
in V4-V6, unchanged from prior. Labs with HCT close to baseline, 
Cr elevated to 1.3. Given 1L IVF. CTA chest with slightly 
enlarged pulmonary nodules and a mass abutting a bronchus, but 
no evidence of pulmonary embolism. He did not produce enough 
sputum for culture, but did have mildly rust colored sputum. 
Vital signs prior to transfer: 176/68, 99% RA, 63 NSR, 22 RR, 
temp 98.3.  
.
Currently, he reports feeling well. He endorses chronic dry 
cough. He denies hemoptysis since admission. Fevers prior to 
previous admission, but no recent fevers.  
 
Past Medical History:
- Iron-deficiency anemia
- angioectasias in the distal small bowel
- Hyperlipidemia
- Hypertension
- Diabetes
- Dementia
- COPD
- OSA
- GERD 
- Peptic Ulcers

 
Social History:
___
Family History:
Daughter with skin cancer.
 
Physical Exam:
Admission Physical Exam: 
VS - 98.7 170/70 54 18 98% on RA ___ 208 205.7lbs  
GENERAL - well-appearing male in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no LAD  
LUNGS - diffuse rhonchi, L>R, wheezes over LLL  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - +BS, soft/NT/ND, no masses or HSM, no rebound/guarding 
 
EXT - WWP, 1+ RLE edema, no LLE edema, 2+ peripheral pulses 
(radials, DPs)  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, steady not wide based gait  
. 
Discharge Physical Exam: 
VS - 98.1 179/100 64 18 100%RA  
GENERAL - well-appearing male in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no LAD  
LUNGS - scattered rhonchi on left side; no wheezes or rales; 
egophany over left lower lobe  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - +BS, soft/NT/ND, no masses or HSM, no rebound/guarding 
 
EXT - WWP, 1+ RLE pitting edema, no LLE edema, 2+ peripheral 
pulses (radials, DPs)  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, steady ambulation with cane 
 
Pertinent Results:
ADMISSION LABS:  
___ 03:20PM BLOOD WBC-3.8* RBC-3.35* Hgb-8.2* Hct-27.2* 
MCV-81* MCH-24.5* MCHC-30.1* RDW-16.8* Plt ___
___ 03:20PM BLOOD Neuts-65.2 ___ Monos-5.8 Eos-2.0 
Baso-0.9
___ 03:20PM BLOOD ___ PTT-32.5 ___
___ 03:20PM BLOOD Glucose-183* UreaN-25* Creat-1.3* Na-140 
K-3.9 Cl-106 HCO3-26 AnGap-12
___ 03:20PM BLOOD PSA-<0.1
___ 03:31PM BLOOD Lactate-1.9
. 
DISCHARGE LABS:  
___ 06:00AM BLOOD WBC-4.1 RBC-3.73* Hgb-9.1* Hct-30.4* 
MCV-81* MCH-24.4* MCHC-30.0* RDW-16.4* Plt ___
___ 06:00AM BLOOD ___ PTT-34.3 ___
___ 06:00AM BLOOD Glucose-162* UreaN-23* Creat-1.2 Na-143 
K-4.0 Cl-105 HCO3-28 AnGap-14
___ 06:00AM BLOOD Calcium-9.4 Phos-3.6 Mg-2.0
. 
URINE STUDIES: 
___ 03:45PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:45PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 01:39AM URINE Hours-RANDOM UreaN-602 Creat-74 Na-134 
K-28 Cl-127
. 
MICRO: 
___ 6:48 pm SPUTUM EXPECTORATED - contaminated 
.
IMAGING:
CTA CHEST ___:  
1.  No evidence of pulmonary embolism or acute aortic syndrome. 
2.  Left perihilar mass, concerning for primary malignancy. 
Interval clearance of post-obstructive pneumonia.  
3.  Multiple pulmonary nodules are similar in size compared with 
prior exam. Attention on follow up is recommended. 
. 
___ RIGHT LEG ___: 
No evidence of deep vein thrombosis in the right leg.
. 
BRONCHOSCOPY: Two fluoroscopic spot films were obtained 
intraoperatively during bronchoscopy biopsy without radiologist 
present.  Images demonstrate biopsy of left suprahilar left 
upper lobe mass.  225.4 seconds of fluoroscopic time was used. 
For full details, please see the operative report. 
.
CXR ___: No pneumothorax status post biopsy of known left 
hilar mass.
. 
PATH: 
LEFT LOWER LOBE MASS PATHOLOGY ___: PENDING 
Brushings, left lower lobe ___: PENDING 
 
Brief Hospital Course:
___ year old man with extensive tobacco history admitted with 
hemoptysis, found to have large mass abutting bronchus.  
. 
# Hemoptysis/Chest Mass: Given large mass abutting bronchus, 
presence of multiple spiculated nodules on CT, lymphadenopathy, 
weight loss, and recent admission for post obstructive pneumonia 
in the setting of a heavy smoking history, hemoptysis likely due 
to malignancy abutting bronchus.  He underwent CTA that did not 
show any evidence of pulmonary embolism.  The ___ underwent 
transbronchial biopsy with interventional pulmonology for 
diagnosis of mass.  He did not experience any hemoptysis while 
inpatient, and hematocrit remained stable.  The ___ will 
follow up with interventional pulmonology as an outpatient 
regarding biopsy results.  He will follow up with his PCP ___ 
___.    
.  
# ___ edema:  On admission, ___ with unilateral right lower 
extremity edema.  Right ___ negative for DVT.  No palpable 
pelvic lymphadenopathy as source of edema.  Exam remained stable 
throughout admission.  
.
# Acute kidney injury: ___ admitted with Cr 1.3 from 
baseline 1.1. Likely prerenal from sporadic PO intake or blood 
loss.  Improved with IV fluids.  
.
# Dementia: Reportedly Alzheimer's per his children. Per his 
wife, he has difficulty processing new information and his 
memory is worsening. NPH considered on admission, given history 
of incontinence, but no wide-based gate. Recent head CT without 
ventriculomegaly more than expected for age.  The ___ 
remained alert and pleasant throughout admission, with 
situational confusion (thought he was at work) and difficulty 
with memory.  He was maintained on ___ precautions.  Tethers 
were limited.  He was continued on donepezil, memantine, and 
sertraline.  
. 
# Hypertension: ___ moderately hypertensive on admission.  
He was continued on home carvedilol, losartan, and amlodipine.  
Amlodipine dose was increased from 5mg to 10mg, but was titrated 
back down to 5mg daily prior to discharge.  The ___ should 
follow up with his PCP regarding blood pressure control.
. 
# COPD: Chronic. The ___ was continued on tiotropium, 
albuterol nebs prn.
.   
# Hyperlipidemia: Chronic. The ___ was continued on 
atorvastatin.
.   
# Iron deficiency anemia: Chronic.  The ___ was continued on 
ferrous sulfate.  
.   
# DM II. Chronic, insulin dependent.  Metformin was held 
throughout admission.  The ___ was continued on lantus with 
an insulin sliding scale.  Metformin was resumed at discharge.   
  
. 
# GERD: Chronic. The ___ was continued on omeprazole.  
.  
# CODE: DNI/DNR; Reversed to full code for bronchoscopy 
# CONTACT: wife, daughter ___ ___ h ___ 
==========================================
TRANSITIONAL ISSUES:  
# bronchoscopy biopsy of pulmonary mass PENDING at the time of 
discharge.  ___ to follow up with interventional pulmonary 
and his PCP 
# ___ should follow up with PCP for blood pressure check 
 
Medications on Admission:
1. Amlodipine 5 mg PO DAILY 
HOld for sBP<100. 
2. Atorvastatin 20 mg PO DAILY 
3. Carvedilol 12.5 mg PO BID 
Hold for sBP<100 or HR<70. 
4. Donepezil 10 mg PO HS 
5. Glargine 8 Units Breakfast
6. Losartan Potassium 50 mg PO DAILY 
HOld for sBP<100.
 
7. MEMAntine *NF* 10 mg Oral daily 
8. Omeprazole 40 mg PO DAILY 
9. Sertraline 100 mg PO HS 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Aspirin 325 mg PO DAILY 
12. Docusate Sodium 100 mg PO BID 
13. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
HOld for sBP<100. 
2. Atorvastatin 20 mg PO DAILY 
3. Carvedilol 12.5 mg PO BID 
Hold for sBP<100 or HR<70. 
4. Donepezil 10 mg PO HS 
5. Glargine 8 Units Breakfast
6. MetFORMIN (Glucophage) 1000 mg PO BID 
7. Losartan Potassium 50 mg PO DAILY 
HOld for sBP<100.
 
8. MEMAntine *NF* 10 mg Oral daily 
9. Omeprazole 40 mg PO DAILY 
10. Sertraline 100 mg PO HS 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. Aspirin 325 mg PO DAILY 
13. Docusate Sodium 100 mg PO BID 
14. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
hemoptysis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (cane).

 
Discharge Instructions:
Mr. ___, 
.
You were admitted to the hospital after coughing up blood.  You 
were found to have a large mass on your lung that was the likely 
source of bleed.  This mass is concerning, so you underwent a 
procedure to sample the mass.  You were discharged to home.  You 
should follow up with the lung doctors and your primary care 
physician as an outpatient for the results of your test.  
.
MEDICATIONS CHANGED THIS ADMISSION:  none 
 
Followup Instructions:
___